US04200641
To a stirred mixture of 40 parts of 2-(phenylmethyl)-1H-benzimidazole-1-propanol and 225 parts of trichloromethane are added dropwise 30 parts of sulfinyl chloride. Upon completion, stirring is continued for 4 hours at reflux temperature. The reaction mixture is evaporated and the residue is boiled in water. The solution is filtered over hyflo and the filtrate is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 1-(3-chloropropyl)-2-(phenylmethyl)-1H-benzimidazole; mp. 112° C.

reactant | 2-(phenylmethyl)-1H-benzimidazole-1-propanol | C1(=CC=CC=C1)CC1=NC2=C(N1CCCO)C=CC=C2 | C17H18N2O
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 1-(3-chloropropyl)-2-(phenylmethyl)-1H-benzimidazole | ClCCCN1C(=NC2=C1C=CC=C2)CC2=CC=CC=C2 | C17H17ClN2
